US07202367B2
Preparation of 3.5-dimethylphenyl 2-methylphenyl ether
Example 3.1 was repeated, replacing the phenol with 244 mg of 3,5-dimethylphenol (2 mmoles) and the iodobenzene with 383 μl of 2-iodotoluene (3 mmoles), and taking the reaction time to 118 hours.

reactant | 3,5-dimethylphenol | 2 mmoles, 244 mg | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
reactant | 2-iodotoluene | 3 mmoles, 383 μl | IC1=C(C=CC=C1)C | C7H7I
product | 3.5-dimethylphenyl 2-methylphenyl ether | CC1=C(C=CC=C1)OC1=CC(=CC(=C1)C)C | C15H16O
